US08044213B2
To a suspension of 0.983 g (2 mmole) of (3-benzyloxypropyl)triphenylphosphonium bromide and 20 mL of tetrahydrofuran at −78 degrees was added 1.33 mL (2.4 mmole) of 1.8 M phenyllithium solution. The mixture was stirred for 10 minutes and then 0.823 g (2 mmole) of 4-(3-chloro-phenyl)-2-(6-formyl-benzoimidazol-1-yl)-thiazole-5-carboxylic acid ethyl ester (I.41a) was added. The reaction was allowed to warm up to room temperature, stirred for 2 hours and then quenched by the addition of 10 mL of saturated ammonium chloride solution. The layers were separated. The aqueous layer was extracted twice with 20 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with methanol-dichloromethane (gradient 0:100-1.5:98.5) to give 0.568 g of 2-[6-(-benzyloxy-but-1-enyl)-benzoimidazol-1-yl]-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid ethyl ester (I.41b) as a yellow solid.

reactant | (3-benzyloxypropyl)triphenylphosphonium bromide | 2 mmole, 0.983 g | [Br-].C(C1=CC=CC=C1)OCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | phenyllithium | 2.4 mmole, 1.8 M, 1.33 mL | C1(=CC=CC=C1)[Li]
reactant | 4-(3-chloro-phenyl)-2-(6-formyl-benzoimidazol-1-yl)-thiazole-5-carboxylic acid ethyl ester | 2 mmole, 0.823 g | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C=C2)C=O)C2=CC(=CC=C2)Cl | C20H14ClN3O3S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-[6-(-benzyloxy-but-1-enyl)-benzoimidazol-1-yl]-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid ethyl ester | 0.568 g | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C=C2)C=CCCOCC2=CC=CC=C2)C2=CC(=CC=C2)Cl | C30H26ClN3O3S
